US05866576
N-(10,11-Dihydroxyundecyl)phthalimide (2.35 g, 7.10 mmol) was stirred for 3 hours with HBr (6.90 mL of a 30% solution in acetic acid, 21.3 mmol). The mixture was then added over 10 minutes to a solution of water (50 mL), ice (25 g) and NaHCO3 (15 g) and stirred for an additional 30 min. The resulting reaction product was extracted with dichloromethane (3×70 mL) and the combined organic phase was dried using magnesium sulfate and evaporated, yielding a residue of N-(10-acetoxy-11-bromoundecyl)phthalimide.

reactant | N-(10,11-Dihydroxyundecyl)phthalimide | 7.10 mmol, 2.35 g | OC(CCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)CO | C19H27NO4
reactant | HBr | Br | BrH
reactant | water | 50 mL | O | H2O
reactant | NaHCO3 | 15 g | C(=O)(O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N-(10-acetoxy-11-bromoundecyl)phthalimide | C(C)(=O)OC(CCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)CBr | C21H28BrNO4
